US04978663
5-(1-Hydroxycyclohexyl)-2-methoxypyridine
A solution of n-butyllithium (1.6M in hexanes, 150 ml) was added dropwise over 1 hour to a mechanically stirred solution of 5-bromo-2-methoxypyridine (39.3 g) in 800 ml of diethyl ether at -40° C. The resulting slurry was stirred at -40° C. to -45° C. for 45 minutes, and then cyclohexanone (23.5 g) in 50 ml of diethyl ether was added dropwise over 1 hour. The mixture was allowed to warm to 0° C. over about 1 hour, and then the reaction was quenched with saturated ammonium chloride solution. The layers were separated, and the aqueous phase was extracted with diethyl ether. The combined organic phases were washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to yield a semi-solid material. Trituration with pentane provided 29.0 g of product as a powder. Recrystallization of 8 g of the product gave 6.2 g of plates, m.p. 74°-75° C.

reactant | n-butyllithium | 1.6M, 150 ml | C(CCC)[Li]
reactant | 5-bromo-2-methoxypyridine | 39.3 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | cyclohexanone | 23.5 g | C1(CCCCC1)=O | C6H10O
reactant | pentane | CCCCC | C5H12
solvent | diethyl ether | 800 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 5-(1-Hydroxycyclohexyl)-2-methoxypyridine | 29.0 g | OC1(CCCCC1)C=1C=CC(=NC1)OC | C12H17NO2
